US06300352B1
a) (2S)-2-(4-Bromophenoxy)butanoic acid, methyl ester
Prepared according to the method described in Example 1a) from diethylazodicarboxylate (7.8 g), 4-bromophenol (7.8 g), triphenylphosphine (11.8 g), and R-2-hydroxybutanoic acid, methyl ester (5.31g, Tetrahedron, 35, 1601) in anhydrous tetrahydrofuran. After work up crude material was purified by flash column chromatography over silica eluting with 30% dichloromethane in isohexane to give the sub-title compound as an oil (7.53 g). 1H NMR (CDCl3) 7.37(2H, dt); 6.76(2H, dt); 4.52(1H, t); 3.75(3H, s); 2.03-1.94(2H, m); 1.07(3H, t).

reactant | diethylazodicarboxylate | 7.8 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-bromophenol | 7.8 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | triphenylphosphine | 11.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2S)-2-(4-Bromophenoxy)butanoic acid, methyl ester | 7.53 g | BrC1=CC=C(O[C@H](C(=O)OC)CC)C=C1 | C11H13BrO3
